US07888352B2
N-Methylpiperazine was reacted with 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde via General Procedure B-3. Purification on silica yielded 2-chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine.

reactant | N-Methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2-chloro-4-morpholinothieno[2,3-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)SC(=C2)C=O)N2CCOCC2 | C11H10ClN3O2S
product | 2-chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
